US05753682
11. 4-(2-Propylimidazol-1-yl)benzyl alcohol
Prepared from 2-propylimidazol and ethyl 4-fluorobenzoate.

reactant | 2-propylimidazol | C(CC)C=1NC=CN1 | C6H10N2
reactant | ethyl 4-fluorobenzoate | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
product | 4-(2-Propylimidazol-1-yl)benzyl alcohol | C(CC)C=1N(C=CN1)C1=CC=C(CO)C=C1 | C13H16N2O
